Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Bactrim
 
Attending: ___
 
Chief Complaint:
Dyspnea
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
___ yoM with severe COPD on 4LNC at baseline presents with 
worsening shortness of breath since yesterday.  Patient reports 
he had walked ~10ft to get food in the kitchen and returned to 
his seat, after which he developed dyspnea at rest and 
difficulty breathing.  He did not change his oxygen settings, 
but went to sleep and awoke with worsening symptoms.  He reports 
baseline cough productive of baseline yellow sputum, denies 
fevers, PND, orthopnea, and is unaware of any pedal edema.  He 
had been using his nebulizers as needed, on average twice daily, 
in addition to his inhalers.
.
The patient called EMS, and was administered Combivent on his 
way to the ED.  In the ED, the patient was found to have poor 
air exchange without wheezing, with initial vital signs T   P85  
BP 138/63  R20  PO2 98% on 4L NC. He was given Duoneb inhalers 
x3, Prednisone 60mg po x1, Azithromycin 500mg x1, and Albuterol 
neb x1 with improvement of his symptoms.  EKG and CXR were 
obtained.
.  
On the floor, patient reported improved shortness of breath but 
was still experiencing labored breathing.  He denied other 
complaints.
.
Of note, patient was recently admitted for a COPD flare ___ 
(date of discharge) and was treated at that time with IV 
solumedrol and transitioned to an oral prednisone taper.  He 
also received Doxycycline, Albuterol and Atrovent nebs. With 
these measures, pt began to return to his previous respiratory 
baseline, which is known to be tenuous.  He was discharged on a 
short steroid 
taper.

 
Past Medical History:
1. Severe COPD: followed by Dr. ___, on prednisone and home 
oxygen (4L NC) at baseline, recently he has been having monthly 
admissions for COPD: PFT's ___: FEV1 19%, FEV1/FVC 43%  
2. Chronic Systolic CHF: TTE ___ LVEF>55%, although patient 
denies this  
3. Gastritis/GERD  
4. h/o SBO  
5. ___ Abuse: Previous 5PPD, now ___ cigs/day  
6. Diabetes Mellitus type 2 
7. Diverticulosis  
8. C6-C7 HERNITATION  
9. B12 Deficiency- on monthly injections 
10. Obesity with possible OSA, but pt refuses sleep study or 
CPAP  
11. Psoriasis  
12. Hypertension  
13. Glaucoma  
14. Recent LLE cellulitis ___  
 
Social History:
___
Family History:
Mother - died of lung cancer in ___
Father - died of lung cancer in ___
Sister- died of lung cancer in ___

 
Physical Exam:
Vitals: T: 98.0   BP: 142   P: 89   R: 24   O2: 90% 4L NC  ___ 
292
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear  
CV: RRR, soft heart sounds, no murmurs, rubs, gallops  
Lungs: Poor air exchange, minimal rales anteriorly, no 
wheezes/rales
Abdomen: Soft, obese, NT/ND, +BS
Ext: Warm, well perfused, equal and palpable DP pulses b/l, 1+ 
pitting edema b/l to shins, no clubbing, cyanosis
Skin: Silvery scales on elbows b/l
Neuro:  Strength ___ in UE and ___ b/l, sensation grossly intact, 
CNII-XII grossly intact

 
Pertinent Results:
___
ABG:
pH 7.35 pCO2 58 pO2 69 HCO3 33 BaseXS 3 
Cl:98
freeCa:1.16
Lactate:2.7
.
Trop-T: <0.01    CK: 61  
.
146  107  15     AGap=10 
------------- 85
4.7  34  0.7  
estGFR: >75 (click for details)  
proBNP: 357
.
     10.4
9.0 ------ 199 
     34.0  
N:89.5 L:6.9 M:2.2 E:1.3 Bas:0.1 
.
___: 11.8  PTT: 23.7  INR: 1.0  
.
.
Chest X-ray: negative for any focal consolidations

 
Brief Hospital Course:
___ yo M with multiple medical problems most notable for severe 
COPD with multiple hospitalizations for flares presents with 
another COPD exacerbation after finsishing a brief Prednisone 
taper from last hospitalization two days prior.
.
# COPD exacerbation: Patient with severe (Stage IV) COPD and 
many recent flares on 4L O2 at home presents with repeat COPD 
exacerbation.  Most likely cause of flare is insufficient 
Prednisone coverage on his short taper. Patient received 
Combivent on the way to the ED, and in the ED was placed on 4L 
NC, given 60mg IV salumedrol x1, duoneb x3, albuterol nebulizer 
x1, and azithromycin 500mg x1. On the floor he received 
Prednisone 60mg, albuterol neb Q4 standing, Ipratropium Bromide 
Q6 standing, Fluticasone Diskus BID, and albuterol Q2 PRN.  
Initial blood gas showed a pH of 7.35 pO2 69 and pCO2 58.  
Patient was also placed on a 5 day course of Azithromycin and 
started on Atovaquone 1500mcg for PCP ___. His breathing 
improved to baseline, and patient was discharged on a slow taper 
of 40mg daily through ___ (1 day, 5 days total) then 30mg 
once daily through ___ (5 days), then 20mg daily through 
___ (5 days), then 10mg daily through ___ (5 days), then 
resuming his regular home course of 10mg Prednisone every other 
day. 
.
# Diabetes:  Pt's HgbA1C was in the low 7's recently, but sugars 
were difficult to control on Prednisone with highs in 400's and 
hyperglycemia overnight despite being on home Metformin and 
Glyburide, and humalog SSI.  Prednisone was decreased to 40mg to 
lessen effect on blood glucose, and ___ was consulted.  Pt's 
___ Glyburide was changed to Glimepiride with improvement of 
sugars.  However, he continued to become hyperglycemic with 
meals and was thus discharged to short term rehab with humalog 
SSI to cover him until his Prednisone taper was complete. 
.
# Wound care: Patient had poorly healing wounds on his left shin 
and right buttock. Wound care was consulted.
.
# Chronic venous insufficiency: Most likely contributing to 
poorly healing wound on left shin. He was given ___ compression 
stockings to take home. He was minimally edematous on admission 
in the lower extremities below the knee. ___ stockings were kept 
off left leg during admission due to poorly healing wound, and 
pt was instructed to wear TEDs at home when his leg recovers.
.
# Vitamin B12: Was given monthly B12 injection on second day of 
admission.
 
Medications on Admission:
1. Albuterol 2 puffs qid prn           
2. Alendronate 70mg PO q weekly        
3. Amlodipine 10mg PO daily            
4. Fluticasone 100mcg inh daily bid    
5. Advair 500-50 1 inh bid             
6. Furosemide 60mg PO daily            
7. Glyburide 2.5mg PO daily (QHS)       
8. Combivent 2 puffs qid and prn SOB    
9. Lisinopril 20mg PO daily             
10. Metformin 1000mg PO bid             
11. Pantoprazole 40mg PO bid            
12. Simvastatin 5mg PO qhs               
13. Tamsulosin .4mg PO qhs               
14. Vitamin B12 injection q monthly
15. Xalatan .005% drops qhs in each eye  
16. ASA 325mg PO daily                  
17. Ferrous Sulfate 325mg PO daily  
18. Magnesium Oxide 400mg daily     
19. Ranitidine 300mg once daily     
20. senna 2 tabs daily              
21. Alphagan BID                    
22. lactulose 10g/15ml BID              
23. Prednisone 10mg QHS             
 
Discharge Medications:
1. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q2H (every 2 hours) as 
needed for SOB.  
2. Ipratropium Bromide 0.02 % Solution Sig: One (1)  Inhalation 
Q6H (every 6 hours).  
3. Lisinopril 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
4. Furosemide 40 mg Tablet Sig: 1.5 Tablets PO DAILY (Daily).  
5. Simvastatin 10 mg Tablet Sig: 0.5 Tablet PO DAILY (Daily).  
6. Tamsulosin 0.4 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO HS (at bedtime).  
7. Glyburide 5 mg Tablet Sig: 0.5 Tablet PO HS (at bedtime).  
8. Amlodipine 10 mg Tablet Sig: One (1) Tablet PO once a day.  
9. Magnesium Oxide 400 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
10. Latanoprost 0.005 % Drops Sig: One (1) Drop Ophthalmic HS 
(at bedtime).  
11. Cholecalciferol (Vitamin D3) 400 unit Tablet Sig: Two (2) 
Tablet PO DAILY (Daily).  
12. Pantoprazole 40 mg Tablet, Delayed Release (E.C.) Sig: One 
(1) Tablet, Delayed Release (E.C.) PO Q12H (every 12 hours).  
13. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  

14. Ferrous Sulfate 325 mg (65 mg Iron) Tablet Sig: One (1) 
Tablet PO DAILY (Daily).  
15. Fluticasone-Salmeterol 250-50 mcg/Dose Disk with Device Sig: 
One (1) Disk with Device Inhalation BID (2 times a day).  
16. Atovaquone 750 mg/5 mL Suspension Sig: Two (2)  PO DAILY 
(Daily) as needed for PCP ___.
Disp:*1 bottle* Refills:*2*
17. Brimonidine 0.15 % Drops Sig: One (1) Drop Ophthalmic BID (2 
times a day).  
18. Calcium Carbonate 500 mg Tablet, Chewable Sig: One (1) 
Tablet, Chewable PO Q8H (every 8 hours).  
19. Senna 8.6 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).  
20. Albuterol Sulfate 2.5 mg /3 mL (0.083 %) Solution for 
Nebulization Sig: One (1)  Inhalation Q4H (every 4 hours).  
21. Vitamin B-12 1,000 mcg/mL Solution Sig: One (1)  Injection 
once a month.  
22. Ranitidine HCl 300 mg Tablet Sig: One (1) Tablet PO once a 
day.  
23. Alendronate 70 mg Tablet Sig: One (1) Tablet PO once a week. 
 
24. Metformin 500 mg Tablet Sig: Two (2) Tablet PO BID ___ AND 
1700 ().  
25. Glimepiride 1 mg Tablet Sig: One (1) Tablet PO q8AM ().
Disp:*30 Tablet(s)* Refills:*2*
26. Lactulose 10 gram/15 mL Syrup Sig: Fifteen (15) ML PO BID (2 
times a day) as needed for constipation.  
27. Atovaquone 750 mg/5 mL Suspension Sig: Two (2)  PO once a 
day for 3.5 weeks: Please take until ___.
Disp:*1 bottle* Refills:*1*
28. Prednisone 20 mg Tablet Sig: Two (2) Tablet PO DAILY 
(Daily): 40mg once everyday through ___ (1 days total) then 
30mg once everyday through ___ (5days) then 20mg once 
everyday through ___ (5days total) then 10mg once everyday 
through ___ (5 days total), then resume your regular home 
course of 10mg Prednisone every other day.
Disp:*30 Tablet(s)* Refills:*2*
29. Insulin Lispro 100 unit/mL Solution Sig: as directed per 
sliding scale units Subcutaneous ASDIR (AS DIRECTED) for 3.5 
weeks: Sliding scale to be used until completion of prednisone 
taper.  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary diagnosis:
1. COPD exacerbation

Secondary diagnoses:
- nicotine addiction, in precontemplative stage
- diabetes mellitus type II, uncontrolled with complications
- chronic diastolic CHF
- hypertension
- hyperlipidemia
- psoriasis
- gastritis/GERD
- diverticulosis
- vitamin B12 deficiency

 
Discharge Condition:
Stable and back to baseline breathing status on 4L NC.

 
Discharge Instructions:
You were seen at ___ for shortness of breath related to your 
Chronic Obstructive Pulmonary disease (COPD). You were given 
breathing treatments and high dose steroids. You were also given 
antibiotics to treat the possible trigger for your COPD 
exacerbation. You had significant improvement of your breathing 
but had high blood sugars, which occurs with the steroids used 
for your breathing.
.
Medication Changes:
1. Prednisone 40mg once everyday through ___ (1 days total) 
then 30mg once everyday through ___ (5days) then 20mg once 
everyday through ___ (5days total) then 10mg once everyday 
through ___ (this will take 620 (10mg)tablets if discharged 
on ___ then resume your regular home course of 10mg 
Prednisone every other day.
2. Atovaquone 1500mcg liquid once daily, continue through 
___
3. Glyburide was discontinued
4.  Glimepiride (Amaryl) was started to replace your Glyburide, 
and should be taken every morning for your diabetes
.
Please see your PCP or go to your nearest Emergency Department 
if you feel shortness of breath, chest pain, concerning increase 
in sputum or cough, confusion, or any other symptoms that 
concern you.
 
Followup Instructions:
___